US05679672
Hydrogen bromide was bubbled at room temperature through a solution of (+)-phenylmethyl N-[(3R)-2,3-dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-3-yl]carbamate (0.9 g, 2.1 mmol), acetic acid (5 mL) and dichloromethane (5 mL). After 2 h., the solvent was evaporated under reduced pressure, ether was added and the solid was collected and dried in vacuo. A sample (0.58 g, 1.8 mmol) was suspended in THF (10 mL), triethylamine (0.24 mL, 0.18 g, 1.8 mmol) was added and the mixture was stirred at room temperature for 3 h. In a separate flask, oxalyl chloride (0.20 mL, 0.29 g, 2.3 mmol) was added to a solution of cyclohexanepropionic acid (0.33 mL, 0.30 g, 1.9 mmol) and DMF (1 drop) in THF (10 mL) and the mixture was stirred at room temperature for 3 h. The two mixtures were combined, triethylamine (0.32 mL, 0.23 g, 2.3 mmol) was added and the mixture was stirred at room temperature for 2.5 h. The solvent was evaporated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The combined organic fractions were washed with water, saturated aqueous sodium hydrogen carbonate, water (2×) and brine, dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2 /MeOH (99.5:0.5) and the residue was recrystallized from EtOAc/Hexane to give 3-cyclohexyl-N-(2,3-dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-3-yl)propanamide as a solid. m.p. 113°-119° C.

reactant | Hydrogen bromide | Br | BrH
reactant | (+)-phenylmethyl N-[(3R)-2,3-dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-3-yl]carbamate | 2.1 mmol, 0.9 g | C1(=CC=CC=C1)C1=N[C@H](C(NC2=C1C=CC=C2)=S)NC(OCC2=CC=CC=C2)=O | C23H19N3O2S
reactant | triethylamine | 1.8 mmol, 0.24 mL, 0.18 g | C(C)N(CC)CC | C6H15N
reactant | oxalyl chloride | 2.3 mmol, 0.20 mL, 0.29 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclohexanepropionic acid | 1.9 mmol, 0.33 mL, 0.30 g | C1(CCCCC1)CCC(=O)O | C9H16O2
reactant | triethylamine | 2.3 mmol, 0.32 mL, 0.23 g | C(C)N(CC)CC | C6H15N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-cyclohexyl-N-(2,3-dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-3-yl)propanamide | C1(CCCCC1)CCC(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=S | C24H27N3OS
